US06924278B2
A solution of 4-benzyl-5-oxo-7-oxa-4-azaspiro[2.5]octane (695.3 mg) in tetrahydrofuran (8 ml) was added dropwise to an ice-cooled suspension of lithium aluminum hydride (112 mg) in tetrahydrofuran (5 ml) over 20 minutes and then the mixture was stirred at 50° C. for 2 hours under nitrogen atmosphere. After being cooled to room temperature, sodium fluoride (495 mg) was added to the mixture. The mixture was stirred vigorously and cooled with ice-bath. Water (0.16 ml) was added thereto and the mixture was filtered. The filtrate was concentrated under reduced pressure to give an oil. The oil was purified by column chromatography on silica gel using a mixture of hexane and ethyl acetate as eluent to give 4-benzyl-7-oxa-4-azaspiro[2.5]octane (334.8 mg). 4-Benzyl-7-oxa-4-azaspiro[2.5]octane in ethanol (8 ml) was hydrogenated over palladium hydroxide on carbon for 2 hours at atmospheric pressure. After removal of the catalyst by filtration, the filtrate was treated with 4N hydrogen chloride in ethyl acetate (2 ml) and concentrated under reduced pressure to give 7-oxa-4-azaspiro[2.5]octane hydrochloride (81 mg).

reactant | 4-benzyl-5-oxo-7-oxa-4-azaspiro[2.5]octane | 695.3 mg | C(C1=CC=CC=C1)N1C2(CC2)COCC1=O | C13H15NO2
reactant | lithium aluminum hydride | 112 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium fluoride | 495 mg | [F-].[Na+]
reactant | Water | 0.16 ml | O | H2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-benzyl-7-oxa-4-azaspiro[2.5]octane | 334.8 mg | C(C1=CC=CC=C1)N1C2(CC2)COCC1 | C13H17NO
